US05693320
2-acetyl-5-methacrylamidosalicylic acid (1 part by mole), dicyclohexyl carbodiimide (1.1 part by mole), phenol (1.1 part by mole), and dimethylaminopyridine (about 0.1 part by mole) serving as a catalyst are dissolved in dry dichloromethane (50 ml). The solution is stirred at room temperature overnight. After the reaction, the precipitate including dicyclohexyl carbodiimide urea is removed by filtration. The solution is washed by distilled water three times, by an aqueous solution of 5% by weight of acetic acid three times, and further by distilled water three times. The solution is filtrated again to remove the precipitate. The solvent is removed by evaporation, and the residue is recrystallized to give phenyl 2-acetyl-5-methacrylamidosalicylate.

reactant | 2-acetyl-5-methacrylamidosalicylic acid | C(C)(=O)C1(C(C(=O)O)C=C(C=C1)NC(C(=C)C)=O)O | C13H15NO5
reactant | dicyclohexyl carbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | dicyclohexyl carbodiimide urea | NC(=O)N.C1(CCCCC1)N=C=NC1CCCCC1
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | phenyl 2-acetyl-5-methacrylamidosalicylate | C(C)(=O)C1(C(C(=O)OC2=CC=CC=C2)C=C(C=C1)NC(C(=C)C)=O)O | C19H19NO5
